US07544835B2
a) 2-(2,4-Dichlorophenoxy)propanoic acid
1 g of 2,4-Dichlorophenol was dissolved in 15 ml of N,N-dimethylformamide, and 0.27 g of 60% sodium hydride was added thereto under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. 1.1 ml of Ethyl α-bromopropionate was added to the mixture, and stirring was continued at room temperature for another 1 hour. To the reaction solution was added aqueous ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was subjected to silica gel column chromatography, and the fraction eluted with 50:1 n-hexane:ethyl acetate was evaporated and the residue was dissolved in ethanol. To this solution was added 6.5 ml of 5N sodium hydroxide. It was then refluxed for 1 hour. The reaction solution was cooled, and water was added thereto. Then, the mixture was acidified with dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated, to give 1.5 g of the title compound.

reactant | 2,4-Dichlorophenol | 1 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | Ethyl α-bromopropionate | 1.1 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-Dichlorophenoxy)propanoic acid | 1.5 g | ClC1=C(OC(C(=O)O)C)C=CC(=C1)Cl | C9H8Cl2O3
